2189-04-17 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 70 y.o. woman with pmh rheumatoid arthritis found to
   have bilateral pulmonary emboli, spontaneous rectus sheath hematoma
   after initiation of heparin gtt, transferred to ICU with anemia and
   hypotension.
   24 Hour Events:
   - CXR no evidence of PNA, CE neg
   - Pt received 1 addition unit PRBC since Hct 25.1 -> 22.7 at 9pm
   - for tachycardia pt received 1L w/o response
   - bladder pressure =22, risk for abd comptartment syndrome esp w/ age
   >65, and multiple transfusions >6 as risk factors. Surgery consulted
   unlikely to have abdominal compartment syndrome - Continue to monitor
   bladder pressures, Surgical attending will see patient in the AM.
   Subjective:
   - SOB is worse, abd pain is same
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Simvastatin
   myalgias;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2189-4-17**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-17**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 119 (100 - 127) bpm
   BP: 108/67(78) {98/29(66) - 128/79(91)} mmHg
   RR: 24 (24 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
    Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  2,296 mL
                                                                    658 mL
   PO:
                                                                     75 mL
   TF:
   IVF:
                                                                  1,246 mL
                                                                    558 mL
   Blood products:
                                                                    975 mL
                                                                    100 mL
   Total out:
                                                                     55 mL
                                                                     39 mL
   Urine:
                                                                     55 mL
                                                                     39 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,241 mL
                                                                    619 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.43/31/111/18/-2
   Physical Examination
   GENERAL: Elderly female who appears her stated age, increased resp
   effort
   Mentation: Alert, speaks in full sentences.
   Eyes:NC/AT, PERRL, EOMI without nystagmus, no scleral icterus noted.
   conjunctival pallor
   Ears/Nose/Mouth/Throat: dry mucus membranes no lesions noted in OP
   Neck: supple
   Respiratory: CTAB
   Cardiovascular: tachycardic, regular,, nl. S1S2
   Gastrointestinal: soft, LLQ tenderness with radiation to left flank. No
   rebound. normoactive bowel sounds, no masses or organomegaly noted.
   Skin: no rashes or lesions noted. No pressure ulcer
   Extremities: 2+ b/l symmetrical edmea with mild erythema of the ankles
   b/l.  poor capillary refill. extremities are warm.
   Neurologic:
   -mental status: Alert, oriented x 3. Able to relate history without
   difficulty.
   Labs / Radiology
   237 K/uL
   9.1 g/dL
   169 mg/dL
   3.2 mg/dL
   18 mEq/L
   4.9 mEq/L
   45 mg/dL
   107 mEq/L
   138 mEq/L
   25.2 %
   25.5 K/uL
        [image002.jpg]
                             [**2189-4-16**]  12:18 PM
                             [**2189-4-16**]  12:46 PM
                             [**2189-4-16**]  01:30 PM
                             [**2189-4-16**]  03:30 PM
                             [**2189-4-16**]  06:09 PM
                             [**2189-4-16**]  08:44 PM
                             [**2189-4-17**]  01:28 AM
                             [**2189-4-17**]  05:02 AM
   WBC
   22.8
   26.6
   25.5
   Hct
   25.1
   25.5
   22.7
   26.9
   25.2
   Plt
   258
   200
   237
   Cr
   2.2
   2.4
   2.8
   3.2
   TropT
   0.04
   TCO2
   21
   Glucose
   168
   172
   191
   169
   Other labs: PT / PTT / INR:12.4/20.2/1.0, CK / CKMB /
   Troponin-T:136/6/0.04, Differential-Neuts:84.6 %, Lymph:10.2 %,
   Mono:4.8 %, Eos:0.1 %, Lactic Acid:1.7 mmol/L, Ca++:7.7 mg/dL, Mg++:2.3
   mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   A/P: 70 y.o. woman with pmh rheumatoid arthritis found to have
   bilateral pulmonary emboli, spontaneous rectus sheath hematoma after
   initiation of heparin gtt, transferred to ICU with anemia and
   hypotension.
   .
   ## Hypotension: Likely secondary to hypovolemia from bleeding rectus
   sheath. Possibly from worsening PE, though she has been anticoagulated,
   and echo yesterday   unlikely given Has been responsive to fluids thus
   far. [**Month (only) 8**] also be from sepsis, given acute rise in white count.  Will
   check lactate. Continue prbc's and IVF.
   - 1L bolus NS
   - pRBC if Hct drops currently stable at 25.2
   - consider rechecking lactate
   .
   ## Bilateral PEs: significant clot burden. No clear precipitant: no
   self-reported history of immobility (although her obesity would seem to
   limit her mobility), no history of malignancy, no family history of
   blood clots, no recent surgery.  Holding heparin gtt given hypotension
   and bleeding.
   - holding heparin
   - will get IVC filter to prevent further dvts while not on heparin
   - may need hypercoagulable workup as outpatient
   .
   ## Increased bladder pressure
 possibly chronicallly elevated [**3-16**]
   obesity, currently at 22, Surgeons evaluated and believe pt is at low
   risk for abdominal compartment syndrome.
   - surgery will sign off
   - will moniter bladder pressure occasionally
   ## Rectus sheath hematoma: Appears to be spontaneous bleed after
   initiation of heparin. Currently not responding to prbc infusions.  BP
   is responsive to fluids. IR will not take for study given acute renal
   failure. Will discontinue heparin, support with blood transfusions and
   IVF.
   - continue ot moniter
   .
   ##Acute Renal Failure: Cr increase from 0.9 to 2.4, and now increase to
   3.2 in setting of hypotension and IV contrast.  FeNa 2% supporting
   etiology as contrast nephropathy vs. ATN. Currently anuric. Hematoma
   may be increasing abdominal pressure, but not causing obstruction per
   [**Doctor First Name 91**] consultation..
   - consulting renal on oliguria
   - continue to moniter
   .
   #Leukocytosis: Could be infectious, vs. stress reaction from PE, acute
   hypotension.  Will pan culture, send stool for C.Diff.
   -f/u blood,urine, sputum, stool c.diff
   .
   #Tachypnea: RR 30 on admission to [**Hospital Unit Name 4**], was 20 on floor. Possibly from
   hypotension and anemia, worsening PE, myocardial ischemia, or anxiety.
   will check cardiac enzymes. get ekg neg, CXR neg, CE neg.  On ABG pt
   has metabolic acidosis in addition to respiratory alkalosis
   - watch for resolution as primary problems improve
   .
   ## HTN: holding amlodipine, lisinopril, metoprolol for now given acute
   bleed
   .
   ## RA: Humira and MTX held since last admission, per rheum,
   Nocontraindication to restarting these meds with PEs. However, with
   acute bleed, will hold off on restarting until stabilized.
   .
   ## hyperlipidemia: continue statin
   .
   ## fEN: replete lytes prn
   ## PPx: hold heparin gtt for bleed, PPI pneumoboots
   ## Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-4-16**] 11:58 AM
   20 Gauge - [**2189-4-16**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
                        ACTIVE MEDS:
   10. Pantoprazole 40 mg PO Q24H
   3. Acetaminophen 325-650 mg PO Q6H:PRN
   11. Pravastatin 20 mg PO DAILY
   4. Bisacodyl 10 mg PR HS:PRN
   12. Senna 1 TAB PO BID
   5. Calcium Carbonate 500 mg PO TID
                        6. Docusate Sodium 100 mg PO
   14. Vitamin D 800 UNIT PO DAILY
   7. FoLIC Acid 1 mg PO DAILY
   15. Zolpidem Tartrate 5 mg PO HS:PRN
   8. Morphine Sulfate 1 mg IV Q4H:PRN pain

2189-04-18 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   70 y.o. woman with pmh rheumatoid arthritis found to have bilateral
   pulmonary emboli, spontaneous rectus sheath hematoma after initiation
   of heparin gtt, transferred to ICU with anemia and hypotension.
   24 Hour Events:
   - IVC filter placed, central line left in place
   - got 1u pRBC at 5pm for Hct 22.2, did not bump, gave another unit and
   went up to 24.4
   Renal consult: on renal US couldnt visualise left kidney ? compressed /
   hidden with blood around it.
   U sed: actually full of hyaline and not muddy brown: so hopeful that
   with quick recovery of hemodynamics should recover qucik.
   Allergies:
   Penicillins- Unknown;
   Shellfish Derived -Unknown;
   Simvastatin - myalgias;
   Other ICU medications:
   Fentanyl - [**2189-4-17**] 02:00 PM
   Morphine Sulfate - [**2189-4-18**] 12:45 AM
   Other medications:
   1. FoLIC Acid 1 mg PO DAILY
   2. Morphine 1 mg IV Q4H:PRN pain
   3. Pantoprazole 40 mg PO Q24H
   4. Pravastatin 20 mg PO DAILY
   5. Senna 1 TAB PO BID
   6. Acetaminophen 325-650 mg Q6H:PRN
   7. Bisacodyl 10 mg PR HS:PRN
   8. Vitamin D 800 UNIT PO DAILY
   9. Calcium Carbonate 500 mg PO TID
   10. Zolpidem Tartrate 5 mg PO HS:PRN
   11. Docusate Sodium 100 mg PO BID
   Flowsheet Data as of  [**2189-4-18**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 91 (91 - 109) bpm
   BP: 97/61(69) {97/51(67) - 136/74(88)} mmHg
   RR: 22 (20 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 3 (2 - 10)mmHg
   Bladder pressure: 17 (17 - 18) mmHg
                               Total In:
                                                                  3,335 mL
                                                                    478 mL
   PO:
                                                                    225 mL
                                                                    130 mL
   TF:
   IVF:
                                                                  2,730 mL
                                                                     68 mL
   Blood products:
                                                                    380 mL
                                                                    280 mL
   Total out:
                                                                    754 mL
                                                                    580 mL
   Urine:
                                                                    754 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,581 mL
                                                                   -103 mL
   Physical Examination
   GENERAL: Elderly female who appears her stated age, increased resp
   effort
   Mentation: Alert, speaks in full sentences.
   Eyes:NC/AT, PERRL, EOMI without nystagmus, no scleral icterus noted.
   conjunctival pallor
   Ears/Nose/Mouth/Throat: dry mucus membranes no lesions noted in OP
   Neck: supple
   Respiratory: CTAB
   Cardiovascular: tachycardic, regular,, nl. S1S2
   Gastrointestinal: soft, LLQ tenderness with radiation to left flank. No
   rebound. normoactive bowel sounds, no masses or organomegaly noted.
   Skin: no rashes or lesions noted. No pressure ulcer
   Extremities: 2+ b/l symmetrical edmea with mild erythema of the ankles
   b/l.  poor capillary refill. extremities are warm.
   Neurologic:
   -mental status: Alert, oriented x 3. Able to relate history without
   difficulty.
   Labs / Radiology
   173 K/uL
   8.6 g/dL
   117 mg/dL
   1.5 mg/dL
   19 mEq/L
   4.1 mEq/L
   48 mg/dL
   110 mEq/L
   141 mEq/L
   24.4 %
   14.3 K/uL
        [image002.jpg]
                             [**2189-4-16**]  12:46 PM
                             [**2189-4-16**]  01:30 PM
                             [**2189-4-16**]  03:30 PM
                             [**2189-4-16**]  06:09 PM
                             [**2189-4-16**]  08:44 PM
                             [**2189-4-17**]  01:28 AM
                             [**2189-4-17**]  05:02 AM
                             [**2189-4-17**]  03:20 PM
                             [**2189-4-17**]  09:40 PM
                             [**2189-4-18**]  05:06 AM
   WBC
   22.8
   26.6
   25.5
   14.3
   Hct
   25.1
   25.5
   22.7
   26.9
   25.2
   22.2
   22.5
   24.4
   Plt
   258
   200
   237
   173
   Cr
   2.4
   2.8
   3.2
   1.5
   TCO2
   21
   Glucose
   172
   191
   169
   117
   Other labs: PT / PTT / INR:12.8/23.3/1.1, CK / CKMB /
   Troponin-T:136/6/0.04, Differential-Neuts:84.6 %, Lymph:10.2 %,
   Mono:4.8 %, Eos:0.1 %, Lactic Acid:1.7 mmol/L, Ca++:7.5 mg/dL, Mg++:2.4
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   70 y.o. woman with pmh rheumatoid arthritis found to have bilateral
   pulmonary emboli, spontaneous rectus sheath hematoma after initiation
   of heparin gtt, transferred to ICU with anemia and hypotension.
 PULMONARY EMBOLISM (PE), ACUTE
 bilateral significant clot burden.
   No clear precipitant: no self-reported history of immobility (although
   her obesity would seem to limit her mobility), no history of
   malignancy, no family history of blood clots, no recent surgery.
   Holding heparin gtt given hypotension and bleeding.
   - holding heparin
   - s/p IVC filter placement
   - may need hypercoagulable workup as outpatient
   - will need to restart anticoagulation eventually to prevent IVC filter
   clot.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING) Rectus
   sheath hematoma: Appears to be spontaneous bleed after initiation of
   heparin. Currently not responding to prbc infusions.  BP is responsive
   to fluids. IR will not take for study given acute renal failure. S
   - Continue to support with blood transfusions and IVF.
   - anticoagulation stopped
   ## Hypotension: Likely secondary to hypovolemia from bleeding rectus
   sheath vs sepsis vs worsening PE (echo without elevated PASP).
   - 1L bolus NS
   - pRBC if Hct dropping
   - consider rechecking lactate
   - f/u pancultures, cdiff
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) Cr increase from 0.9
   to 2.4, and now increase to 3.2 in setting of hypotension and IV
   contrast.  FeNa 2% supporting etiology as contrast nephropathy vs. ATN.
   Currently anuric. Hematoma may be increasing abdominal pressure, but
   not causing obstruction per [**Doctor First Name 91**] consultation..
   - consulting renal on oliguria
   - continue to moniter
   - Increased bladder pressure
 possibly chronicallly elevated [**3-16**]
   obesity, currently at 22, Surgeons evaluated and believe pt is at low
   risk for abdominal compartment syndrome. -> recheck
 TACHYPNEA - RR 30 on admission to [**Hospital Unit Name 4**], was 20 on floor. Possibly
   from hypotension and anemia, worsening PE, myocardial ischemia, or
   anxiety. will check cardiac enzymes. get ekg neg, CXR neg, CE neg.  On
   ABG pt has metabolic acidosis in addition to respiratory alkalosis
   - watch for resolution as primary problems improve
   #Leukocytosis: Improved from 25 to 14 without treatment. Likely stress
   reaction from PE. Ruling out infectious sources
   -f/u blood,urine, sputum, stool c.diff
   ## HTN: holding amlodipine, lisinopril, metoprolol for now given acute
   bleed
   ## RA: Humira and MTX held since last admission, per rheum,
   Nocontraindication to restarting these meds with PEs. However, with
   acute bleed, will hold off on restarting until stabilized.
   ## hyperlipidemia: continue statin
   ICU Care
   Nutrition:  Full liquids
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-4-16**] 11:58 AM
   20 Gauge - [**2189-4-16**] 11:58 AM
   Multi Lumen - [**2189-4-17**] 04:39 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   Communication:
   Code status: Full code
   Disposition:

2189-04-19 08:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   70 y.o. woman with pmh rheumatoid arthritis found to have bilateral
   pulmonary emboli, spontaneous rectus sheath hematoma after initiation
   of heparin gtt, transferred to ICU with anemia and hypotension.
   24 Hour Events:
   Hct stable, did not require any additional transfustions
   Allergies:
   Penicillins - Unknown;
   Shellfish Derived- Unknown;
   Simvastatin- myalgias;
   Other ICU medications:
   Morphine Sulfate - [**2189-4-19**] 07:43 AM
   Other medications:
   1. IV access: Peripheral line Order date: [**4-16**] @ 1200 8. Morphine
   Sulfate 1 mg IV Q4H:PRN pain
   hold for sedation  Order date: [**4-16**] @ 1200
   2. OK to use line Order date: [**4-17**] @ 1503 9. Pantoprazole 40 mg PO
   Q24H  Order date: [**4-16**] @ 1200
   3. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**4-16**] @ 1200 10.
   Pravastatin 20 mg PO DAILY  Order date: [**4-16**] @ 1200
   4. Bisacodyl 10 mg PR HS:PRN  Order date: [**4-16**] @ 1200 11. Senna 1 TAB
   PO BID  Order date: [**4-16**] @ 1200
   5. Calcium Carbonate 500 mg PO TID  Order date: [**4-16**] @ 1200 12. Sodium
   Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**4-16**] @ 1200
   6. Docusate Sodium 100 mg PO BID  Order date: [**4-16**] @ 1200 13. Vitamin
   D 800 UNIT PO DAILY  Order date: [**4-16**] @ 1200
   7. FoLIC Acid 1 mg PO DAILY  Order date: [**4-16**] @ 1200 14. Zolpidem
   Tartrate 5 mg PO HS:PRN insomnia  Order date: [**4-16**] @ 1200
   Flowsheet Data as of  [**2189-4-19**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 88 (81 - 96) bpm
   BP: 127/64(79) {112/52(68) - 139/73(85)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 13 (8 - 16)mmHg
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  1,000 mL
                                                                    180 mL
   PO:
                                                                    480 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     80 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  1,890 mL
                                                                    255 mL
   Urine:
                                                                  1,890 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -890 mL
                                                                    -76 mL
   Physical Examination
   GENERAL: Elderly female appears comfortable, becomes tachypneic with
   minimal movement.
   Mentation: Alert, speaks in full sentences.
   HEENT: dry mucus membranes
   Respiratory: CTAB
   Cardiovascular: tachycardic, regular,, nl. S1S2 , no murmurs
   Gastrointestinal: soft, LL and UQ tenderness with radiation to left
   flank. No rebound. normoactive bowel sounds, no masses or organomegaly
   noted.
   Skin: no rashes or lesions noted. No pressure ulcer
   Extremities: 2+ b/l symmetrical edmea with mild erythema of the ankles
   b/l.  extremities are warm.
   Neurologic:  Mental status: Alert, oriented x 3. Able to relate history
   without difficulty.
   Labs / Radiology
   182 K/uL
   8.6 g/dL
   95 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.2 mEq/L
   38 mg/dL
   112 mEq/L
   142 mEq/L
   25.3 %
   11.5 K/uL
        [image002.jpg]
                             [**2189-4-16**]  06:09 PM
                             [**2189-4-16**]  08:44 PM
                             [**2189-4-17**]  01:28 AM
                             [**2189-4-17**]  05:02 AM
                             [**2189-4-17**]  03:20 PM
                             [**2189-4-17**]  09:40 PM
                             [**2189-4-18**]  05:06 AM
                             [**2189-4-18**]  11:10 AM
                             [**2189-4-18**]  06:08 PM
                             [**2189-4-19**]  04:19 AM
   WBC
   26.6
   25.5
   14.3
   11.5
   Hct
   25.5
   22.7
   26.9
   25.2
   22.2
   22.5
   24.4
   25.4
   26.3
   25.3
   Plt
   200
   237
   173
   182
   Cr
   2.8
   3.2
   1.5
   1.0
   Glucose
   191
   169
   117
   95
   Other labs: PT / PTT / INR:12.8/23.3/1.1, CK / CKMB /
   Troponin-T:136/6/0.04, Differential-Neuts:84.6 %, Lymph:10.2 %,
   Mono:4.8 %, Eos:0.1 %, Lactic Acid:1.7 mmol/L, Ca++:7.4 mg/dL, Mg++:2.5
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   70 y.o. woman with pmh rheumatoid arthritis found to have bilateral
   pulmonary emboli, spontaneous rectus sheath hematoma after initiation
   of heparin gtt, transferred to ICU with anemia and hypotension.
 PULMONARY EMBOLISM (PE), ACUTE
 bilateral significant clot burden.
   No clear precipitant: no self-reported history of immobility, no
   history of malignancy, no family history of blood clots, no recent
   surgery.  Holding heparin gtt given hypotension and bleeding.
   - holding heparin
   - s/p IVC filter placement
   - may need hypercoagulable workup as outpatient
   - will need to restart anticoagulation eventually to prevent IVC filter
   clot.
 TACHYPNEA - Improving. Likely due to discomfort from peripheral PEs.
   Cardiac ischemia ruled out with neg Ces, unchanged EKG.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING) Rectus
   sheath hematoma: Appears to be spontaneous bleed after initiation of
   heparin. Currently not responding to prbc infusions.  BP is responsive
   to fluids. IR will not take for study given acute renal failure.
   - Continue to support with blood transfusions and IVF.
   - anticoagulation stopped
   ## HYPOTENSION: Resolved. Was thought to be due to hypovolemia from
   bleeding rectus sheath Responded well to IVF.
   - IVF prn
   - f/u pancultures, cdiff, although improving without antibiotics
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESOLVED
   Cr initially increase from 0.9 to 3.2 in setting of hypotension and IV
   contrast, now 1.  FeNa 2% supporting etiology as contrast nephropathy
   and ATN ruled out with no muddy brown casts on sediment. Starting to
   make urine. Hematoma and obesity likely increasing abdominal pressure,
   but not causing compartment syndrome clinically.
   - f/u renal recs
   - continue to moniter
   - no need to recheck bladder pressure
   #Leukocytosis: Improved from 25 to 11 without treatment. Likely stress
   reaction from PE. Ruling out infectious sources
   -f/u blood,urine, sputum, stool c.diff
   ## HTN: Had been holding home amlodipine, lisinopril, metoprolol given
   acute bleed  and hypotension
   -          restarting hoe lisinopril today (40mg daily)
   -          restart others as tolerated
   ## RA: Humira and MTX held since last admission, per rheum,  No
   contraindication to restarting these meds with PEs. However, will first
   tbw with rheumatologist re: their plan.
   ## hyperlipidemia: continue statin
   ICU Care
   Nutrition:  Regular
   Lines:
   Multi Lumen - [**2189-4-17**] 04:39 PM
 now that no leukocytosis, will
   attempt peripheral lines and remove CVL.
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   Code status: Full code
   Dispo : call out to floor